US04997847
(ii) Ethyl-10-(4-chlorobenzenesulphonamido)-2,2-dimethyldecanoate
Ethyl 2,2-dimethyl-10-bromodecanoate (2.2 g, 0.007 mol) was treated with 4-chlorobenzenesulphonamide (2.6 g, 0.014 mol) and potassium carbonate by the method described in Example 5(ii) to give title compound (1.4 g) as an oil.

reactant | Ethyl 2,2-dimethyl-10-bromodecanoate | 0.007 mol, 2.2 g | CC(C(=O)OCC)(CCCCCCCCBr)C | C14H27BrO2
reactant | 4-chlorobenzenesulphonamide | 0.014 mol, 2.6 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Ethyl-10-(4-chlorobenzenesulphonamido)-2,2-dimethyldecanoate | 1.4 g | C(C)OC(C(CCCCCCCCNS(=O)(=O)C1=CC=C(C=C1)Cl)(C)C)=O | C20H32ClNO4S
